US06951944B2
To a solution of bis(2,2,2-trifluoroethyl)phosphite (0.11 ml, 0.6 mmol) in THF (1.5 ml) were added 1,8-diazabicyclo[5,4,0]-7-undecene (DBU) (0.09 ml, 0.6 mmol) and (1-triphenylmethylimidazol-4-yl)methyl chloride (71.8 mg, 0.2 mmol). The reaction mixture was refluxed under argon flow for 22 hours. The solvent was removed under reduced pressure, and water (10 ml) was added to the residue, which was then extracted 3 times with ethyl acetate (10 ml). The resultant organic layers were washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The obtained white solid was purified through chromatography on silica gel column using ethyl acetate-hexane (3:2) to give bis(2,2,2-trifluoroethyl)(1-triphenylmethylimidazol-4-yl)methylphosphonate (34 mg, 30%) as a white powder. This powder was recrystallized from a mixture of ethyl acetate and hexane to provide a white small needle crystal (m.p. 145-148° C.).

reactant | bis(2,2,2-trifluoroethyl)phosphite | 0.6 mmol, 0.11 ml | FC(COP(OCC(F)(F)F)[O-])(F)F
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 0.6 mmol, 0.09 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (1-triphenylmethylimidazol-4-yl)methyl chloride | 0.2 mmol, 71.8 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CCl)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | bis(2,2,2-trifluoroethyl)(1-triphenylmethylimidazol-4-yl)methylphosphonate | 34 mg, 30% | FC(COP(OCC(F)(F)F)(=O)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C27H23F6N2O3P
